US09210932B2
Step C: Preparation of 2-(2-fluorophenyl)propanedioic acid
Sodium hydroxide (117.11 g of a 50% aqueous solution) was added to water (160.5 g), and the solution was cooled to 10-15° C. Tetramethylammonium chloride (4.88 g) was added, followed by the dropwise addition of 1,3-dimethyl 2-(2-fluorophenyl)propanedioate (150 g) over a period of 30 minutes at 10-15° C. The temperature of the reaction was slowly raised to 30° C. after the addition and maintained at 27-32° C. The reaction mass became a thick slurry, and water (25 g) was added to improve stirring. The progress of the reaction was monitored by HPLC. After stirring for 2 hours, the reaction mixture was added to a solution of HCl (231 g) and water (150 mL) over a period of 30 minutes at 5-10° C. The pH of the mixture was adjusted to <2, and the reaction mixture was stirred at 5-10° C. for half an hour. The reaction mixture was then filtered to isolate a solid product that was air dried, and then further dried under reduced pressure at 35° C. for 3 hours. The dried solid was slurried with petroleum ether, and the slurry was filtered to reisolated the solid. The solid was then dried under reduced pressure at 35° C. for 3 hours to give the title product (115.5 g, 93.97%).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 1,3-dimethyl 2-(2-fluorophenyl)propanedioate | 150 g | FC1=C(C=CC=C1)C(C(=O)OC)C(=O)OC | C11H11FO4
reactant | HCl | 231 g | Cl | ClH
catalyst | Tetramethylammonium chloride | 4.88 g | [Cl-].C[N+](C)(C)C
solvent | water | 150 mL | O | H2O
solvent | water | 25 g | O | H2O
solvent | water | 160.5 g | O | H2O
product | 2-(2-fluorophenyl)propanedioic acid | 115.5 g, 93.97% | FC1=C(C=CC=C1)C(C(=O)O)C(=O)O | C9H7FO4
